US04262010
1-(t-Butyldimethylsilyl)-3-(1-hydroxyethyl)-4-(1,1-dimethylcarboxymethyl)-azetidin-2-one.
A solution of 1-(t-butyldimethylsilyl)-3-(1-hydroxyethyl)-4-(1,1-dimethyl-prop-2-enyl)-azetidin-2-one (3.0 mmol) in dry methylene chloride (30 ml) is cooled to -78° C. (dry ice-acetone) and a stream of ozone is bubbled through until the reaction mixture becomes blue. The ozone flow is then stopped and the reaction is purged by bubbling through nitrogen until the blue color disappears. Solid m-chloroperbenzoic acid (3.0 mmol) is added and the cold bath is removed. When the reaction mixture reaches room temperature, the flask is fitted with a reflux condenser and the mixture is heated at reflux for three days. Removal of solvents in vacuo gives a crude product which is chromatographed on silica gel (2% glacial acetic acid in methylene chloride) to yield 6.

reactant | 1-(t-butyldimethylsilyl)-3-(1-hydroxyethyl)-4-(1,1-dimethyl-prop-2-enyl)-azetidin-2-one | 3.0 mmol | [Si](C)(C)(C(C)(C)C)N1C(C(C1C(C=C)(C)C)C(C)O)=O | C16H31NO2Si
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | m-chloroperbenzoic acid | 3.0 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-(t-Butyldimethylsilyl)-3-(1-hydroxyethyl)-4-(1,1-dimethylcarboxymethyl)-azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C(C(C1C(C)(C)C(=O)O)C(C)O)=O | C15H29NO4Si
